US05238942
STEP 1: 6-(N1-Imidazolylmethyl)-2-propyl-quinazolin-4(3H)-one
To a solution of 0.20 g (3 mmol) of imidazole in 3 mL of dry DMF was added 79 mg of 80% NaH (3.3 mmol). After hydrogen evolution had ceased a solution of 0.28 g (1 mmol) of 6-bromomethyl-2-propylquinazolin-4(3H)-one was added in 1 mL of DMF. The reaction mixture was heated at 60° C. for 6 hours and was then stirred at room temperature for a further 2 days. The mixture was diluted with 25 mL of EtOAc and washed with saturated NaHCO3 (1×5 mL), water (1×5 mL) and brine (1×5 mL) and was dried over MgSO4. The solution was filtered and concentrated in vacuo and the residue was purified by flash chromatography over silica gel eluting with 7% MeOH/CH2Cl2 to provide the title compound.

reactant | imidazole | 3 mmol, 0.20 g | N1C=NC=C1 | C3H4N2
reactant | NaH | 3.3 mmol, 79 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 6-bromomethyl-2-propylquinazolin-4(3H)-one | 1 mmol, 0.28 g | BrCC=1C=C2C(NC(=NC2=CC1)CCC)=O | C12H13BrN2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 6-(N1-Imidazolylmethyl)-2-propyl-quinazolin-4(3H)-one | N1(C=NC=C1)CC=1C=C2C(NC(=NC2=CC1)CCC)=O | C15H16N4O
